US07585875B2
A mixture of 2-isopropylpyrazolo[1,5-a]pyridine-3-carbaldehyde (0.5 g, 1 equivalent), semicarbazide hydrochloride (0.35 g, 1.2 equivalents), and triethylamine (0.4 mL, 1.1 equivalent) in 5 mL of methanol was reflux for 30 minutes. The solution was concentrated and the crude solids produced were extracted with THF, and the mixture was filtered through a 1 inch thick layer of sodium sulfate on top of a thin pad of silica gel to remove the ammonium salt. The filtrate was concentrated and the solid deposited was recrystallized from THF and hexanes to give (E)-2-((2-isopropylpyrazolo[1,5-a]pyridin-3-yl)methylene)hydrazinecarboxamide (0.46 g, 70% yield) as a yellow solid. Compound 1074.

reactant | 2-isopropylpyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.5 g, 1 equivalent | C(C)(C)C1=NN2C(C=CC=C2)=C1C=O | C11H12N2O
reactant | semicarbazide hydrochloride | 0.35 g, 1.2 equivalents | Cl.NNC(=O)N
reactant | triethylamine | 0.4 mL, 1.1 equivalent | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 mL | CO | CH4O
product | (E)-2-((2-isopropylpyrazolo[1,5-a]pyridin-3-yl)methylene)hydrazinecarboxamide | 0.46 g, 70% yield | C(C)(C)C1=NN2C(C=CC=C2)=C1\C=N\NC(=O)N | C12H15N5O
